US05563163
Reaction of 4-isopropyl-6-aminosaccharin with one molar equivalent of acetyl chloride affords 4-isopropyl-6-acetylaminosaccharin.

reactant | 4-isopropyl-6-aminosaccharin | C(C)(C)C1=C2C(NS(=O)(=O)C2=CC(=C1)N)=O | C10H12N2O3S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-isopropyl-6-acetylaminosaccharin | C(C)(C)C1=C2C(NS(=O)(=O)C2=CC(=C1)NC(C)=O)=O | C12H14N2O4S
